US04341784
3-(N-Acetyl-n-propylamino)pyrrolidine was allowed to react with 7-chloro-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid in the same manner as described above and yield 7-[3-(N-acetyl-n-propylamino)-1-pyrrolidinyl]-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid. Subsequent hydrolysis of this compound with hydrochloric acid gave 1-ethyl-6-fluoro-1,4-dihydro-4-oxo-7-(3-N-propylamino-1-pyrrolidinyl)-1,8-naphthyridine-3-carboxylic acid hydrochloride, m.p. about 270° C. (decomp.).

reactant | 3-(N-Acetyl-n-propylamino)pyrrolidine | C(C)(=O)N(C1CNCC1)CCC | C9H18N2O
reactant | 7-chloro-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid | ClC1=C(C=C2C(C(=CN(C2=N1)CC)C(=O)O)=O)F | C11H8ClFN2O3
product | 7-[3-(N-acetyl-n-propylamino)-1-pyrrolidinyl]-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid | C(C)(=O)N(C1CN(CC1)C1=C(C=C2C(C(=CN(C2=N1)CC)C(=O)O)=O)F)CCC | C20H25FN4O4
